US05108485
Preparation of 1,2-Dimethyl-5,6-benzimidazoledicarboxylic anhydride
A mixture of the 1,2-dimethyl-5,6-benzimidazoledicarboxylic acid (1.25 g, 5.34 mmol) and acetic anhydride is stirred for 2 hours at reflux temperature, cooled to 5 ° and filtered The filter cake is dried to give the title product as brown needles (1.04 g, 90.1%), mp 310°-315° C.

reactant | 1,2-dimethyl-5,6-benzimidazoledicarboxylic acid | 5.34 mmol, 1.25 g | CN1C(=NC2=C1C=C(C(=C2)C(=O)O)C(=O)O)C | C11H10N2O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2-Dimethyl-5,6-benzimidazoledicarboxylic anhydride | 1.04 g, 90.1% | CN1C(=NC2=C1C=C1C(=C2)C(=O)OC1=O)C | C11H8N2O3
